US07365225B2
Step d) Formation of 2-(chloromethyl)-1,3-thiazole-4-carbonyl chloride
Oxalyl chloride (3.2 mL, 36.6 mmol, 5 eq.) was added dropwise to a suspension of 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoic acid (1.30 g, 7.32 mmol, 1 eq.) in DCM (10 mL) followed by a catalytic amount of DMF at RT. The reaction mixture was allowed to stir at RT overnight and then evaporated to give the title compound as the crude product.

reactant | Oxalyl chloride | 36.6 mmol, 3.2 mL, 5 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoic acid | 7.32 mmol, 1.30 g, 1 eq. | ClCC=1N=C(SC1)C1=CC=C(C(=O)O)C=C1 | C11H8ClNO2S
reactant | DMF | CN(C)C=O | C3H7NO
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(chloromethyl)-1,3-thiazole-4-carbonyl chloride | ClCC=1SC=C(N1)C(=O)Cl | C5H3Cl2NOS
